US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide
Boron trifluoride etherate (2.0 mL, 16 mmol) was added to a solution of 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide (2.20 g, 3.74 mmol) in acetonitrile (30.0 mL) at 0° C. under N2. The reaction mixture was stirred at room temperature overnight. The reaction was cooled to 0° C., water (5 mL) was added. After stirring at room temperature for 30 minutes, 5.0 M ammonium hydroxide in water (9 mL, 50 mmol) was added slowly at 0° C. over a period of 5 minutes. Then the reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with MeOH in dichloromethylene (0-5%) to afford the desired product (1.50 g, 63%) which was further purified by re-crystallization from acetone to afford the pure product (1.25 g, purity: 99.96%). The product was then converted to TFA salt. LCMS (M+H)+: m/z=459.2. 1H NMR (300 Hz, DMSO-d6): δ 12.73 (s, 1H), 9.11 (s, 1H), 8.85 (s, 1H), 8.57 (s, 1H), 8.03 (d, J=8.0 Hz, 1H), 7.81 (t, J=2.5 Hz, 1H), 7.64 (s, 1H), 7.60 (t, J=2.5 Hz, 1H), 7.27 (d, J=2.5 Hz, 1H), 6.72 (t, J=9.0 Hz, 1H), 4.66 (d, J=7.0 Hz, 2H), 4.41 (d, J=7.0 Hz, 2H), 4.04 (m, 1H), 3.73 (s, 2H), 1.12 (d, J=6.5 Hz, 6H).

reactant | Boron trifluoride etherate | 16 mmol, 2.0 mL | B(F)(F)F.CCOCC
reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide | 3.74 mmol, 2.20 g | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)NC(C)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H37FN8O2Si
reactant | ammonium hydroxide | 5.0 M | [OH-].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 30.0 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | water | 50 mmol, 9 mL | O | H2O
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-isopropylbenzamide | 1.50 g, 63% | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)NC(C)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H23FN8O
